US06350892B1
[2-[2-(N,N-Dimethylamino)ethoxy]phenyl]-2,2,2-trifluoroethanone
A mixture of 2-trifluoroacetylphenol (380 mg, 2.0 mmol), 2-[N,N-dimethylamino]ethyl chloride, hydrochloride (432 mg, 6.0 mmol) potassium carbonate (1.38 g, 10 mmol) and toluene (5 ml) was refluxed for 3.5 h. After cooling to r.t., the mixture was treated with water and ether. The organic layer was washed twice with brine, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (acetone/ether 1:1 to 1:0) to give the title compound (375 mg, 72%) as a white solid.

reactant | 2-trifluoroacetylphenol | 2.0 mmol, 380 mg | FC(C(=O)C1=C(C=CC=C1)O)(F)F | C8H5F3O2
reactant | 2-[N,N-dimethylamino]ethyl chloride, hydrochloride | 6.0 mmol, 432 mg | Cl.CN(C)CCCl
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | [2-[2-(N,N-Dimethylamino)ethoxy]phenyl]-2,2,2-trifluoroethanone | 375 mg, 72% | CN(C)CCOC1=C(C=CC=C1)C(C(F)(F)F)=O | C12H14F3NO2
